US05482941
3-Methyl-2-(2-n-propoxyphenyl)benzamide
The title compound was prepared from 2-amino-3-methylbenzamide and 2-n-propoxybenzoyl chloride following the procedure of Preparation 5 and was obtained as a colorless solid (71%), m.p. 140°-142° C. Found: C,69.39; H,6.58; N,8.98. C18H20N2O3 requires C,69.21; H,6.45; N,8.97%.

reactant | 2-amino-3-methylbenzamide | NC1=C(C(=O)N)C=CC=C1C | C8H10N2O
reactant | 2-n-propoxybenzoyl chloride | C(CC)OC1=C(C(=O)Cl)C=CC=C1 | C10H11ClO2
product | 3-Methyl-2-(2-n-propoxyphenyl)benzamide | CC=1C(=C(C(=O)N)C=CC1)C1=C(C=CC=C1)OCCC | C17H19NO2
